US06747071B1
4,4′-dimethoxybenzoin;
2,-4-diethylthioxanthone 2-ethylanthraquinone; 2-methylanthraquinone; 1,8-dihydroxyanthraquinone; dibenzoylperoxide; 2,2-dimethoxy-2-phenylacetophenone; benzoin; 2-hydroxy-2-methylpropiophenone; benzaldehyde; 4-(2-hydroxyethoxy)phenyl-(2-hydroxy-2-methylpropyl)-ketone; benzoylacetone;

reactant | 2-methylanthraquinone | CC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C15H10O2
reactant | 1,8-dihydroxyanthraquinone | OC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)O)=O | C14H8O4
reactant | dibenzoylperoxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 2,2-dimethoxy-2-phenylacetophenone | COC(C(=O)C1=CC=CC=C1)(C1=CC=CC=C1)OC | C16H16O3
reactant | benzoin | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | 2-hydroxy-2-methylpropiophenone | OC(C(=O)C1=CC=CC=C1)(C)C | C10H12O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-(2-hydroxyethoxy)phenyl-(2-hydroxy-2-methylpropyl)-ketone | OCCOC1=CC=C(C=C1)C(C(C)(C)O)C(=O)C(C(C)(O)C)C1=CC=C(C=C1)OCCO | C25H34O7
reactant | benzoylacetone | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
product | 4,4′-dimethoxybenzoin | COC1=CC=C(C=C1)C(=O)C(O)C1=CC=C(C=C1)OC | C16H16O4
